US06326398B1
To a cooled (−78° C.), stirred solution of 5-(2-chloro-6-methyl-4-nitro-phenoxy)-2-methoxy-benzaldehyde (10 g) in dichloromethane (300 mL) was added boron tribromide (23.3 g) dropwise. The reaction was allowed to warm to ambient temperature, stirred for 1.5 h, ice was added to quench the reaction and work up was done with ethyl acetate/water. The organic layer was dried over sodium sulfate, concentrated in vacuo and the resulting oil filtered through a plug of silica gel (eluting with chloroform) to afford 5-(2-chloro-6-methyl-4-nitro-phenoxy)-2-hydroxy-benzaldehyde (8.65 g) as an off-white solid.

reactant | 5-(2-chloro-6-methyl-4-nitro-phenoxy)-2-methoxy-benzaldehyde | 10 g | ClC1=C(OC=2C=CC(=C(C=O)C2)OC)C(=CC(=C1)[N+](=O)[O-])C | C15H12ClNO5
reactant | boron tribromide | 23.3 g | B(Br)(Br)Br | BBr3
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 5-(2-chloro-6-methyl-4-nitro-phenoxy)-2-hydroxy-benzaldehyde | 8.65 g | ClC1=C(OC=2C=CC(=C(C=O)C2)O)C(=CC(=C1)[N+](=O)[O-])C | C14H10ClNO5
